US07939666B2
Stage 4: (S)-7-Amino-3-((S)-1-cyclopentyloxycarbonyl-3-methyl-butylcarbamoyl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester
(S)-3-((S)-1-Cyclopentyloxycarbonyl-3-methyl-butylcarbamoyl)-7-nitro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (3.14 g, 6.24 mmol) and Pd/carbon (0.4 g) were suspended in EtOAc (20 ml). The reaction was stirred under a hydrogen atmosphere (balloon pressure) for 16 h. The solution was filtered through a pad of celite and the solvent removed. The crude product (3.04 g) was used in the next step without further purification. LCMS purity 83%, m/z 474 [M++H]+

reactant | (S)-3-((S)-1-Cyclopentyloxycarbonyl-3-methyl-butylcarbamoyl)-7-nitro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 6.24 mmol, 3.14 g | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2C[C@H]1C(N[C@@H](CC(C)C)C(=O)OC1CCCC1)=O)[N+](=O)[O-] | C26H37N3O7
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
catalyst | Pd carbon | 0.4 g | [Pd].[C]
product | (S)-7-Amino-3-((S)-1-cyclopentyloxycarbonyl-3-methyl-butylcarbamoyl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2C[C@H]1C(N[C@@H](CC(C)C)C(=O)OC1CCCC1)=O)N | C26H39N3O5
